US06008230
To a suspension of 4-azido-8-(2,6-dichlorobenzoylamino)quinoline (518 mg) in ethyl acetate (5 ml) was added triphenylphosphine (383 mg), and the mixture was stirred for 3 hours at 45° C. The resulting precipitates were collected by filtration, and the residue was recrystallized from ethanol to give 8-(2,6-dichlorobenzoylamino)-4-[(triphenylphosphoranylidene)amino]quinoline (846 mg) as white crystal.

reactant | 4-azido-8-(2,6-dichlorobenzoylamino)quinoline | 518 mg | N(=[N+]=[N-])C1=CC=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O | C16H9Cl2N5O
reactant | triphenylphosphine | 383 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 8-(2,6-dichlorobenzoylamino)-4-[(triphenylphosphoranylidene)amino]quinoline | 846 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)N=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC=C1)Cl | C34H24Cl2N3OP
